US04097670
A suspension of 20 g. of glycine diphenylmethyl ester hydrochloride (prepared by reacting glycine tosylate and diphenyldiazomethane in dioxane followed by conversion to the hydrochloride salt) in 300 ml. of toluene is heated to boiling with stirring. At the boiling temperature, a strong stream of phosgene is passed through the suspension for three hours. The isocyanatoacetic acid, diphenylmethyl ester is then isolated by distillation; b.p.0.01 160°-170°.

reactant | glycine diphenylmethyl ester hydrochloride | Cl.C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(CN)=O
reactant | glycine tosylate | S(=O)(=O)(O)C1=CC=C(C)C=C1.NCC(=O)O
reactant | diphenyldiazomethane | C1(=CC=CC=C1)C(=[N+]=[N-])C1=CC=CC=C1 | C13H10N2
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | isocyanatoacetic acid, diphenylmethyl ester | N(=C=O)CC(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C16H13NO3
